US08211401B2
A solution of (S)-5-tert-butoxy-4-(3-((S)-1,5-di-tert-butoxy-1,5-dioxopentan-2-yl)ureido)-5-oxopentanoic acid (Kularatne, S. A.; et. al. Mol. Pharmaceutics, 2009, 6, 790-800) (164 mg, 0.336 mmol), N,N′-disuccinimidyl carbonate (128 mg, 0.50 mmol) and pyridine (0.10 mL) in CH3CN (5.0 mL) was stirred at rt for overnight. Solvent was removed under reduced pressure to give a residue, which was purified by biotage eluting with 10% to 70% EtOAc in hexanes to afford (S)-di-tert-butyl 2-(3-((S)-1-tert-butoxy-5-(2,5-dioxopyrrolidin-1-yloxy)-1,5-dioxopentan-2-yl)ureido)pentanedioate (190 mg, 97%) as a white solid.

reactant | (S)-5-tert-butoxy-4-(3-((S)-1,5-di-tert-butoxy-1,5-dioxopentan-2-yl)ureido)-5-oxopentanoic acid | C(C)(C)(C)OC([C@H](CCC(=O)O)NC(=O)N[C@H](C(=O)OC(C)(C)C)CCC(=O)OC(C)(C)C)=O | C23H40N2O9
reactant | N,N′-disuccinimidyl carbonate | 0.50 mmol, 128 mg | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | pyridine | 0.10 mL | N1=CC=CC=C1 | C5H5N
solvent | CH3CN | 5.0 mL | CC#N | C2H3N
product | (S)-di-tert-butyl 2-(3-((S)-1-tert-butoxy-5-(2,5-dioxopyrrolidin-1-yloxy)-1,5-dioxopentan-2-yl)ureido)pentanedioate | 190 mg, 97% | C(C)(C)(C)OC([C@H](CCC(=O)ON1C(CCC1=O)=O)NC(N[C@H](C(=O)OC(C)(C)C)CCC(=O)OC(C)(C)C)=O)=O | C27H43N3O11
